US06194409B1
63a. Isoquinolin-7-ol
Aminoacetaldehyde dimethyl acetal (79 g) was added to a solution of 106 g of 3-benzyloxy-benzaldehyde in 1100 mL of toluene. The mixture was refluxed for 6 hours using a Dean-Stark trap and subsequently cooled to 5° C. In a nitrogen atmosphere trifluoracetic acid anhydride (212 mL) and borontrifluoride etherate (185 mL) were added in succession at such a rate, that the temperature of the mixture was kept below 10° C. After stirring for 5 days at room temperature the precipitated material was separated by filtration, washed with diethyl ether and dissolved in 750 mL of water. The pH value was adjusted to 9 by adding concentrated aqueous ammonia. The precipitated product was separated by filtration, followed by washing with diethyl ether and drying in vacuo. Yield: 53.2 g; m.p. 210-218° C.; EI-MS: 145 (M+).

reactant | Aminoacetaldehyde dimethyl acetal | 79 g | COC(CN)OC | C4H11NO2
reactant | 3-benzyloxy-benzaldehyde | 106 g | C(C1=CC=CC=C1)OC=1C=C(C=O)C=CC1 | C14H12O2
reactant | trifluoracetic acid anhydride | 212 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | borontrifluoride etherate | 185 mL | B(F)(F)F.CCOCC
solvent | toluene | 1100 mL | C1(=CC=CC=C1)C | C7H8
product | Isoquinolin-7-ol | C1=NC=CC2=CC=C(C=C12)O | C9H7NO
